US04704156
METHYL 1,2,2-TRICHLOROCYCLOPROPANE CARBOXYLATE
Potassium carbonate (4.14 grams) and methyl iodide (3.74 ml) were added to a solution of 1,2,2-trichlorocyclopropane carboxylic acid (5.68 grams) and N,N-dimethylacetamide (50 ml). The reaction mixture was stirred for approximately 20 hours and then filtered. Ethyl ether (250 ml) was added to the filtrate and the resultant mixture was washed, dried, and evaporated in vacuo to the desired product, methyl 1,2,2-trichlorocyclopropane carboxylate. Structure of the product was confirmed by NMR.

reactant | Potassium carbonate | 4.14 grams | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 3.74 ml | CI | CH3I
reactant | 1,2,2-trichlorocyclopropane carboxylic acid | 5.68 grams | ClC1(C(C1)(Cl)Cl)C(=O)O | C4H3Cl3O2
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
product | METHYL 1,2,2-TRICHLOROCYCLOPROPANE CARBOXYLATE | ClC1(C(C1)(Cl)Cl)C(=O)OC | C5H5Cl3O2
